US07115611B2
A] 2-Bromomethyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester
1.97 g (6.67 mmol) of 2-methyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester (example 1L]) was dissolved in 20 ml of CCl4 and treated with 1.781 g (10.0 mmol) of N-bromosuccinimide and 0.126 g (0.669 mmol) of dibenzoyl peroxide. The mixture was refluxed (oilbath temperature 95° C.) and the course of the bromination followed by GC. After 5 h, the reaction mixture was poured onto crashed ice, extracted twice with AcOEt, washed with water and brine, and dried over magnesium sulfate. Evaporation of the solvents i. V., followed by careful flash chromatography (SiO2, hexane/AcOEt=92/8), afforded 1.39 g of the title compound as white crystals, contaminated with roughly 5% of the dibromo-analogue.

reactant | 2-methyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester | 6.67 mmol, 1.97 g | COC(C1=C(N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C15H12F3NO2
reactant | N-bromosuccinimide | 10.0 mmol, 1.781 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | 0.669 mmol, 0.126 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid methyl ester | 1.39 g | COC(C1=C(N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)CBr)=O | C15H11BrF3NO2
